US07129238B2
(S)-(+)-Methoxyphenylacetic acid was coupled with 4-aminomethyl benzonitrile (CAS No: 10406-25-4) according to general procedure C to give (S)-N-(4-cyano-benzyl)-2-methoxy-2-phenyl-acetamide as an off-white solid. MS 281.2 ([M+H]+)

reactant | (S)-(+)-Methoxyphenylacetic acid | CO[C@H](C(=O)O)C1=CC=CC=C1 | C9H10O3
reactant | 4-aminomethyl benzonitrile | NCC1=CC=C(C#N)C=C1 | C8H8N2
product | (S)-N-(4-cyano-benzyl)-2-methoxy-2-phenyl-acetamide | C(#N)C1=CC=C(CNC([C@H](C2=CC=CC=C2)OC)=O)C=C1 | C17H16N2O2
